US04279900
(d) Penicillamine ethyl ester hydrochloride:
Dry hydrogen chloride is bubbled through a suspension of penicillamine (25 g, 0.167 mole) in 300 ml of dry ethanol until all is in solution. The warm solution is then cooled in an ice bath to 0°-5° C. and saturated with dry HCl. The ice bath is removed and the reaction mixture is heated to reflux for 2 hours, then is concentrated in vacuo to a viscous golden oil which is cooled (-30° C.) overnight. After warming to room temperature, the material, now a mixture of white crystalline solid and oil, is triturated with 500 ml Et2O for 30 minutes, then is filtered. An insoluble oil passes through the filter funnel with the Et2O and the residue is washed (3 times, 150 ml portions) further with Et2O. After drying on the funnel under a stream of dry N2, 14.14 g (mp 125°-145° C., 39% yield) of the desired product is obtained as white powder. NMR (CDCl3 ) δ8.85 (bs, 3, --NH3Cl), 4.34 (q, 2, J=7 Hz, OCH2 --C), 4.6-4.15 (m, 1, NCHCO2); 3.83 (s, 1, --SH), 1.70 (s, 3, C--CH3), 1.59 (s, 3, C--CH3), 1.35 (t, 3, J=7 Hz, OCH2CH3); IR (KBr): 1725 cm-1 (s) (C=O).

reactant | hydrogen chloride | Cl | ClH
reactant | penicillamine | 0.167 mole, 25 g | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | Penicillamine ethyl ester hydrochloride | 14.14 g, 39% yield | Cl.C(C)OC([C@@H](N)C(C)(C)S)=O | InChI=1S/C7H15NO2S.ClH/c1-4-10-6(9)5(8)7(2,3)11;/h5,11H,4,8H2,1-3H3;1H/t5-;/m1./s1
